US06599917B1
b) 2-Benzyl-6-(cis-3isopropyloxy-4-hydroxypyrrolidine1-yl)pyridine
A hexane solution containing 1.5 mol of diisobutylaluminum hydride was added little by little to a solution of 5.0 ml of diethyl ether containing 460 mg of 2-benzyl-6-[cis-3,4-(dimethylmethylenedioxy)pyrrolidine-1-yl]pyridine at −20° C. After stirring at room temperature overnight, the reaction solution was poured into an aqueous ammonium chloride solution, and the mixture was filtered through Celite and extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed. Then, the residue was subjected to filtration through silica gel and eluted with ethyl acetate, to give 369 mg of the target compound.

reactant | hexane | CCCCCC | C6H14
reactant | diisobutylaluminum hydride | 1.5 mol | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-benzyl-6-[cis-3,4-(dimethylmethylenedioxy)pyrrolidine-1-yl]pyridine | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]2[C@@H](C1)OC(O2)(C)C | C19H22N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 5.0 ml, 460 mg | C(C)OCC | C4H10O
product | 2-Benzyl-6-(cis-3isopropyloxy-4-hydroxypyrrolidine1-yl)pyridine | 369 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1C[C@H]([C@H](C1)O)OC(C)C | C19H24N2O2
